* Z:\mnt\spice-netlists\LT3825_DC894A-A.asc
L1 N005 IN 38.5µ
L2 N001 N006 0.6µ
M§Q1 N005 N013 N014 N014 Si4490DY
R1 N014 0 20m
C1 N018 N017 .1µ
C2 N020 N019 .0022µ
R2 N020 0 10K
D1 0 N020 BAT54
Q2 0 N011 N012 0 2N2907
M§Q3 N006 N012 0 0 HAT2165H
Q4 N010 N011 N012 0 2N2222
C3 N010 0 1µ
D2 N006 N009 MBR0540
R3 N009 N010 47
L4 0 N018 1.4m
L5 0 N019 1.4m
V1 IN 0 48
C4 N015 0 47p
R4 N025 0 169K
R5 N027 0 887
R6 N024 0 100K
C5 N001 0 47µ
R7 N008 N026 28.7K
R8 0 N026 3.01K
R9 0 N004 15K
R10 N004 IN 412K
L3 N008 0 9.6µ
R11 N023 N022 20K
C6 N022 0 .0022µ
C7 N023 0 .01µ
R12 N017 N016 330
C8 OUT 0 470µ
XU1 N016 VCC N025 N024 0 NC_01 N015 N026 N022 N004 0 N014 N028 N027 N021 N013 0 LT3825
R13 N011 N020 15
C9 N001 N003 .0022µ
R14 N003 0 4.7
C10 N028 0 .1µ
R15 N021 0 12K
C11 IN N002 100p
R16 N005 N002 56
C12 VCC 0 .1µ
C13 VCC 0 47µ
R17 IN VCC 47K
D3 N008 N007 1N4148
R18 N007 VCC 20
Rload OUT 0 .5
L6 N001 OUT 100n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1
K2 L4 L5 1
.tran 7m startup
* NOTES:\n - Substitued Parts for Simulation Purposes:\n   Q12/Q13, Q3, D2, and D7\n - If it is desired to see "trickle charge" start-up behavior, set\n   initial condition statement to ".ic V(Vcc)=0V" and the transient\n   statement to ".tran 1.24s startup"
* PA1477NL (Pulse)
* PA0184 (Pulse)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* DC894 - LT3825 - Synchronous Flyback Controller\nInput:  36V to 72V     Output: 3.3V @ 12A
.ic V(Vcc)=16V
.options
.lib LT3825.sub
.backanno
.end
